US07005432B2
2-Bromo-7-nitro-naphthalene
To a solution of NaNO2 (1.1 g, 24 mmol) in sulfuric acid (8.4 ml) was added at 0° C. acetic acid (8.9 ml) and 7-amino-2-nitro-naphthalene (2.1 g, 1mmol). This solution was added to a suspension of CuBr (2.5 g, 39 mmol) in conc. HBr (16 ml) at 0° C. and the mixture was stirred for 1 hour. The mixture was poured on ice and the aqueous phase was extracted with methylene chloride. The crude product was purified by chromatography to give 1.9 g (7.4 mmol, 51%) of the title compound, MS: m/e=251.2 (M+).

reactant | NaNO2 | 24 mmol, 1.1 g | N(=O)[O-].[Na+]
reactant | acetic acid | 8.9 ml | C(C)(=O)O | C2H4O2
reactant | 7-amino-2-nitro-naphthalene | 1mmol, 2.1 g | NC1=CC=C2C=CC(=CC2=C1)[N+](=O)[O-] | C10H8N2O2
reactant | HBr | 16 ml | Br | BrH
solvent | sulfuric acid | 8.4 ml | S(O)(O)(=O)=O | H2O4S
product | 2-Bromo-7-nitro-naphthalene | 7.4 mmol, 1.9 g, 51% | BrC1=CC2=CC(=CC=C2C=C1)[N+](=O)[O-] | C10H6BrNO2
